US05342935
17-Ethyl-1,20-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (Alternate Method)
To a solution of 17-ethyl-1-hydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (735 mg) in 95% ethanol (10 ml) was added 130 mg of selenium dioxide. The flask was fitted with a water condenser and heated to 70° C. on a mantle. After 45 hours the mixture was cooled to room temperature, filtered through diatomaceous earth and the filtrate poured into a saturated sodium bicarbonate solution. This was extracted with ethyl acetate, and the organic phase was washed with brine and dried over magnesium sulfate. The solution was concentrated and purified by flash chromatography on silica gel (ethyl acetate:hexane (1:1)+1% methanol) to give the title compound (514 mg).

reactant | 17-ethyl-1-hydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 735 mg | C(C)C1C(CCC(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)OC)C)C)=O | C43H69NO11
reactant | selenium dioxide | 130 mg | [Se](=O)=O | O2Se
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 17-Ethyl-1,20-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 514 mg | C(C)C1C(CCC(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(C(C(=C1)C)O)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)OC)C)C)=O | C43H69NO12
